US08877744B2
c) (R)-5-[5-(5,6-Difluoro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine
In a manner analogous to that described in Example 2c), the ammonolysis of (R)-5-[5-(5,6-difluoro-benzo oxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (83 mg, 175 μmol) with ammonia (7M in methanol; 1.72 ml) and tert-butylhydroperoxide (70% in water; 183 μl) yielded the title compound (19 mg, 24% yield). MS (ISP): m/z=458.2 [M+H]+.

reactant | (R)-5-[5-(5,6-difluoro-benzo oxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 175 μmol, 83 mg | FC=1C(=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(NC(COC(C2(F)F)(C)C)=S)C)F)F)C1)F | C21H16F6N2O2S
reactant | ammonia | 7M, 1.72 ml | N | H3N
reactant | tert-butylhydroperoxide | 183 μl | C(C)(C)(C)OO | C4H10O2
product | (R)-5-[5-(5,6-Difluoro-benzooxazol-2-yl)-2,4-difluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-ylamine | 19 mg, 24% yield | FC=1C(=CC2=C(N=C(O2)C=2C(=CC(=C(C2)[C@]2(N=C(COC(C2(F)F)(C)C)N)C)F)F)C1)F | C21H17F6N3O2
